US08022062B2
To a stirred solution of 1.0 M neopentyl magnesium chloride in diethyl ether (50 mL, 50 mmol) at −78° C. under nitrogen, add via syringe a solution of 0.5 M zinc chloride in THF (100 mL, 50 mmol). Warm gradually to ambient temperature and transfer via syringe of this solution (25 mL, ˜8.33 mmol) to a stirred solution of 3-tert-butoxycarbonyl-6-(5-bromo-pyridin-2-ylmethylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine (300 mg, 0.62 mmol) in THF (2 mL) at ambient temperature. Add dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (50 mg, 0.061 mmol) and heat at 65° C. for 6 h. Cool to ambient temperature, dilute with EtOAc, wash with water, dry over anhydrous MgSO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (6:1) to give 3-tert-butoxycarbonyl-7-chloro-6-[5-(2,2-dimethyl-propyl)-pyridin-2-ylmethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil (69 mg, 24%). MS (APCI+) m/z: 501 (M+H)+. Use a method similar to the General Procedure 1-4 to give the title compound as a white powder. MS (APCI+) m/z: 375 (M+H)+.

reactant | neopentyl magnesium chloride | 1.0 M | C(C(C)(C)C)[Mg]Cl
reactant | diethyl ether | 50 mmol, 50 mL | C(C)OCC | C4H10O
reactant | 3-tert-butoxycarbonyl-6-(5-bromo-pyridin-2-ylmethylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.62 mmol, 300 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=NC=C(C=C2)Br | C21H24BrClN2O2S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc chloride | 0.5 M | [Cl-].[Zn+2].[Cl-]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.061 mmol, 50 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | THF | 50 mmol, 100 mL | C1CCOC1 | C4H8O
product | 3-tert-butoxycarbonyl-7-chloro-6-[5-(2,2-dimethyl-propyl)-pyridin-2-ylmethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 69 mg, 24% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=NC=C(C=C2)CC(C)(C)C | C26H35ClN2O2S
